US06869962B2
6-methoxy-2-ethylbenzofuran
This material was prepared from 2-iodo-5-methoxyphenol (1 g, 4 mmole) and 1-butyne in a manner as previously described for example 12a to give 570 mg (81%) of a brown oil. 1H NMR (CDCl3) δ7.33 (1H, d, J=8.6 Hz), 6.97 (1H, d, J=2.2 Hz), 6.80 (1H, dd, J=2.2, 8.6 Hz), 6.26 (1H, s), 3.83 (3H, s), 3.04 (2H, q, J=7.3 Hz), 1.28 (3H, t, J=7.3 Hz).

reactant | 2-iodo-5-methoxyphenol | 4 mmole, 1 g | IC1=C(C=C(C=C1)OC)O | C7H7IO2
reactant | 1-butyne | C#CCC | C4H6
product | 6-methoxy-2-ethylbenzofuran | 570 mg, 81% | COC1=CC2=C(C=C(O2)CC)C=C1 | C11H12O2
